US07462624B2
Step F: (6Z)-7-Benzyl-3-pentyl-3,7-dihydro-1H-purine-2,6-dione 6-hydrazone
7-Benzyl-6-(methylthio)-3-pentyl-3,7-dihydro-2H-purin-2-one (1.2 g, 3.5 mmol) and hydrazine (10 mL, 100 mmol) were mixed. After being stirred at 100° C. overnight, the solution was concentrated in vacuum. The residue was dissolved in DMSO and purified using preparative LCMS. The product fractions were collected and lyophilized to provide the product as a white powder (0.56 g, 60% yield). LCMS calculated for C17H23N6O (M+H): 327.2; found: 327.1.

reactant | 7-Benzyl-6-(methylthio)-3-pentyl-3,7-dihydro-2H-purin-2-one | 3.5 mmol, 1.2 g | C(C1=CC=CC=C1)N1C=NC=2N(C(N=C(C12)SC)=O)CCCCC | C18H22N4OS
reactant | hydrazine | 100 mmol, 10 mL | NN | H4N2
product | (6Z)-7-Benzyl-3-pentyl-3,7-dihydro-1H-purine-2,6-dione 6-hydrazone | 0.56 g, 60% yield | C(C1=CC=CC=C1)N1C=NC=2N(C(N\C(\C12)=N/N)=O)CCCCC | C17H22N6O
